US04028319
The L-tyrosylglycyl-L-alanyl-L-phenylalanyl-L-leucine hydrochloride is dissolved in 250 parts by volume of 20% acetic acid and passed slowly through an IR-45 ion exchange column in the acetate form. The column is washed with 20% acetic acid until no more peptide is eluted. Fractions containing the product are combined and the solvent removed by stripping under reduced pressure at room temperature. The residual glass is dissolved in 75 parts water and lyophilized to give L-tyrosylglycyl-L-alanyl-L-phenylalanyl-L-leucine as a fluffy solid. This compound is represented by the following formula

reactant | L-tyrosylglycyl-L-alanyl-L-phenylalanyl-L-leucine hydrochloride | Cl.N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O
reactant | acetate | C(C)(=O)[O-]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-tyrosylglycyl-L-alanyl-L-phenylalanyl-L-leucine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C29H39N5O7
